US07071175B1
To a solution of diethyl malonate (710 μL, 4.7 mmol) and 4-formyl-piperidine-1-carboxylic acid tert-butyl ester (1.0 g,4.7 mmol) in methylene chloride (5 mL) was added piperidine (46 μL, 0.47 mmol) and acetic acid (27 μL, 0.47 mmol). The reaction mixture was stirred for 72 h at room temperature and then for 16 h at 45° C. EtOAc was added and the mixture was washed with water and brine, dried and concentrated under reduced pressure. The crude was purified by flash chromatography (heptane/EtOAc, 3:1→1:3) to give 2-(1-tert-butoxycarbonyl-piperidin4-ylmethylene)-malonic acid diethyl ester (0.69 g 40%).

reactant | diethyl malonate | 4.7 mmol, 710 μL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 4-formyl-piperidine-1-carboxylic acid tert-butyl ester | 4.7 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
reactant | piperidine | 0.47 mmol, 46 μL | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.47 mmol, 27 μL | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(1-tert-butoxycarbonyl-piperidin4-ylmethylene)-malonic acid diethyl ester | 0.69 g, 40% | C(C)OC(C(C(=O)OCC)=CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C18H29NO6
